US06420367B1
To a solution of ethyl 4-chlorobenzoylacetate (500 mg) in 4 ml of ethanol was added 202 mg of methylhydrazine and the resulting mixture was stirred over night at room temperature. The solvent was removed under reduced pressure and to the residue was purified by the use of silica gel column chromatography to give 199 mg of 3-(4-chlorophenyl)-1-methylpyrazoline-5-one.

reactant | ethyl 4-chlorobenzoylacetate | 500 mg | ClC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11ClO3
reactant | methylhydrazine | 202 mg | CNN | CH6N2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-(4-chlorophenyl)-1-methylpyrazoline-5-one | 199 mg | ClC1=CC=C(C=C1)C=1NN(C(C1)=O)C | C10H9ClN2O
